US08211914B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2.57 g, 10 mmol) was suspended in dichloromethane (20 mL). Oxalyl chloride (2M in dichloromethane, 10 mL) was added followed by DMF (0.028 mL). The mixture was stirred for 1 hr and solvents were evaporated. The residue was treated with benzene (20 mL) and solvents were evaporated. The residue was dissolved in dichloromethane (30 mL) and treated with a mixture of (S)-3-(4-amino-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.78 g, 10 mmol) and triethylamine (3.6 mL, 25 mmol) under ice bath. The mixture was stirred for 30 minutes and ice bath was removed. The solution was further stirred for 2 hrs. Solvents were evaporated and the residue was extracted with 0.1N hydrochloric acid and ethyl acetate. The organic layer was washed with water, concentrated sodium bicarbonate solution and brine. Solvents were evaporated and the residue was purified through ISCO column chromatography (silica gel, ethyl acetate in hexanes, 10% to 80% linear gradient) to give (S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidine-1-carboxylic acid tert-butyl ester (4.4 g, 85.1% yield). LC-MS for C26H26F3N3O5 (m/e) calcd 517, obsd 516 (M−H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 10 mmol, 2.57 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | Oxalyl chloride | 2M, 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-3-(4-amino-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2.78 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)N | C15H22N2O3
reactant | triethylamine | 25 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DMF | 0.028 mL | CN(C)C=O | C3H7NO
product | (S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.4 g, 85.1% yield | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C26H26F3N3O5
